US06822100B2
To a mixture of 2-fluoro-5-cyanophenyl boronic acid (3.10 g, 18.8 mmol), 2-p-tolylsulfanylcarbonyl-cyclopropanecarboxylic acid ethyl ester (3.30 g, 12.5 mmol), copper thiophene-2-carboxylate (3.58 g, 18.8 mmol), tris(dibenzylideneacetone)-dipalladium(0).CHCl3 adduct (150 mg, 0.14 mmol), and tri-2-furyl phosphine (0.86 mmol) under N2 was added 125 mL anhydrous THF. The reaction was stirred for 4 h, then poured into 500 mL water and extracted with 500 mL Et2O. The organic layer was extracted with 0.1 N HCl, water, saturated NaHCO3, and water. The organic extract was dried over sodium sulfate, concentrated, and purified by flash chromatography on silica gel using ethyl acetate/hexane (0-10%) as the eluent to yield 2-(5-cyano-2-fluoro-benzoyl)-cyclopropanecarboxylic acid ethyl ester (2.17 g, 66%). 1H NMR (500 MHz, CDCl3) 8.09 (1H, dd, J=2.14, 6.41 Hz), 7.83 (1H, m), 7.31 (1H, dd, J=8.55, 10.07 Hz), 4.18 (2H, q, J=7.02 Hz), 3.10 (1H, m), 2.42 (1H, m), 1.68 (2H, m), 1.28 (3H, t, J=7.02 Hz). Anal. calcd. for C14H12FNO3: C, 64.36; H, 4.63; N, 5.36. Found: C, 64.62; H, 4.53; N, 5.26.

reactant | 2-fluoro-5-cyanophenyl boronic acid | 18.8 mmol, 3.10 g | FC1=C(C=C(C=C1)C#N)B(O)O | C7H5BFNO2
reactant | 2-p-tolylsulfanylcarbonyl-cyclopropanecarboxylic acid ethyl ester | 12.5 mmol, 3.30 g | C(C)OC(=O)C1C(C1)C(=O)SC1=CC=C(C=C1)C | C14H16O3S
reactant | CHCl3 | 0.14 mmol, 150 mg | C(Cl)(Cl)Cl | CHCl3
reactant | tri-2-furyl phosphine | 0.86 mmol | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
catalyst | copper thiophene-2-carboxylate | 18.8 mmol, 3.58 g | S1C(=CC=C1)C(=O)[O-].[Cu+2].S1C(=CC=C1)C(=O)[O-]
catalyst | tris(dibenzylideneacetone)-dipalladium(0) | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | 500 mL | O | H2O
solvent | THF | 125 mL | C1CCOC1 | C4H8O
product | 2-(5-cyano-2-fluoro-benzoyl)-cyclopropanecarboxylic acid ethyl ester | 2.17 g, 66% | C(C)OC(=O)C1C(C1)C(C1=C(C=CC(=C1)C#N)F)=O | C14H12FNO3
